US07208495B2
1-(2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl)-3-phenylpyrrolidine-2,5-dione
A solution of 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine (2.95 g, 10 mmol) and phenylsuccinic anhydride (1.94 g, 11 mmol) in toluene was refluxed for 6 hours. The reaction mixture was concentrated under reduced pressure. The residue was diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. A mixture of the residue and sodium acetate (0.86 g, 10.5 mmol) in acetic anhydride (60 ml) was stirred at 90° C. for 1 hour. The reaction mixture was concentrated under reduced pressure. The residue was diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and removed under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate−4/1) to obtain 2.27 g (yield 50%) of the title compound. mp. 130–131° C. low polarity product, 1H-NMR (CDCl3) δ: 1.00 (3H, s)=1.52 (3H, s), 1.64 (3H, s), 2.02 (3H, s), 2.16 (3H, s), 2.30 (3H, s), 3.00 (1H, dd, J=4.7, 18.5 Hz), 3.36 (1H, dd, J=9.5, 18.5 Hz), 4.15–4.25 (2H, m), 6.85 (2H, br), 7.06 (2H, brd, J=6.6 Hz), 7.30–7.47 (5H, m).

reactant | 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | 10 mmol, 2.95 g | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N)C)C | C20H25NO
reactant | phenylsuccinic anhydride | 11 mmol, 1.94 g | C1(=CC=CC=C1)C1C(=O)OC(C1)=O | C10H8O3
reactant | sodium acetate | 10.5 mmol, 0.86 g | C(C)(=O)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl)-3-phenylpyrrolidine-2,5-dione | 2.27 g, yield 50% | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N2C(C(CC2=O)C2=CC=CC=C2)=O)C)C | C30H31NO3
